US08431695B2
Preparation of 2-{4-[4-amino-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}-N,N-dimethylacetamide
In a manner similar to the procedure described for the preparation of Example 355 and using 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and 2-chloro-N,N-dimethylacetamide as starting material, 21.6 mg (36.2%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 8.06 (s, 1H), 7.92 (d, 1H), 7.91 (s, 1H), 7.49 (d, 1H), 7.43-7.36 (m, 5H), 6.59 (s, 1H), 5.43 (s, 2H), 4.47 (s, 2H), 3.32-3.23 (m, 1H), 3.21 (s, 2H), 3.10 (s, 3H), 3.09-3.03 (m, 2H), 2.92 (s, 3H), 2.40-2.32 (m, 2H), 2.16-2.12 (m, 2H), 1.94-1.82 (m, 2H); LC-MS m/z[M+H]+ 526.2, RT 2.30 min.

reactant | 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)C=2C=C(N1N=CN=C(C12)N)C1CCNCC1 | C25H24N6S
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-{4-[4-amino-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}-N,N-dimethylacetamide | 21.6 mg, 36.2% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)CC(=O)N(C)C)C=2C=CC1=C(N=C(S1)CC1=CC=CC=C1)C2 | C29H31N7OS
